US07569536B2
Concentrated hydrochloric acid (1.50 ml, 18.0 mmol) and anhydrous tin dichloride (1.45 g, 7.64 mmol) were sequentially added at 0° C. to a methanol (10 ml) solution of 1-(2-nitrophenyl)piperidine (315 mg, 1.52 mmol) obtained as described in Referential Example 18-1. The resulting mixture was warmed to room temperature and stirred for 17 hours. A saturated aqueous solution of sodium bicarbonate was added to the mixture. The resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=15/1). Thus, 2-(1-piperidinyl)aniline (238 mg, 88.8%) was yielded as a pale yellow oily material.

reactant | hydrochloric acid | 18.0 mmol, 1.50 ml | Cl | ClH
reactant | tin dichloride | 7.64 mmol, 1.45 g | [Sn](Cl)Cl
reactant | 1-(2-nitrophenyl)piperidine | 1.52 mmol, 315 mg | [N+](=O)([O-])C1=C(C=CC=C1)N1CCCCC1 | C11H14N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(1-piperidinyl)aniline | 238 mg, 88.8% | N1(CCCCC1)C1=C(N)C=CC=C1 | C11H16N2
